US08957203B2
Step 4: Preparation of 4-bromo-7-fluoro-6-methoxyisoquinolin-1(2H)-one
To a solution of 7-fluoro-6-methoxyisoquinolin-1(2H)-one (1.5 g, 7.7 mmol) in acetonitrile (3 ml) was added NBS (1.382 g, 7.7 mmol) at room temperature under argon atmosphere. The reaction mass was stirred at the same temperature for 2 h. The reaction mass was cooled to room temperature and precipitated solid was filtered to get crude compound (1.25 g, 59.2%). The crude compound was taken to the next step without further purification. 1H NMR (400 MHz, DMSO-d6): δ ppm 11.59 (s, 1H), 7.93-7.91 (d, J=8 Hz, 1H), 7.56 (s, 1H), 7.29-7.27 (d, J=8 Hz, 1H), 4.03 (s, 3H); MS: MS m/z 272.03 (M++2).

reactant | 7-fluoro-6-methoxyisoquinolin-1(2H)-one | 7.7 mmol, 1.5 g | FC1=C(C=C2C=CNC(C2=C1)=O)OC | C10H8FNO2
reactant | NBS | 7.7 mmol, 1.382 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
product | 4-bromo-7-fluoro-6-methoxyisoquinolin-1(2H)-one | 1.25 g, 59.2% | BrC1=CNC(C2=CC(=C(C=C12)OC)F)=O | C10H7BrFNO2
